US06407106B1
First 50 ml of a 55% by weight solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine in THF and then 25 ml water were added to a suspension of 7.4 9 K2CO3 in 150 ml THF. A solution of 12.2 g tert. butoxycarbonyl anhydride in 50 ml THF was added to this receiving solution, and the mixture was stirred for 12 hours at room temperature. After reduction of the reaction mixture in a vacuum, the residue was taken up in 300 ml MTBE, and the organic phase was washed, in succession, twice with 100 ml portions of water, once with 50 ml of a 15% by weight aqueous tartaric acid solution and another four times with 100 ml portions of water, and then dried over sodium sulfate/SiO2. After filtering out the drying agent, the filtrate was reduced in a vacuum, and the residue was taken up in 20 ml MTBE. After heating to 60° C., 120 ml ligroin was added, and the volume was then reduced by approximately 100 ml by vacuum distillation. After another addition of 100 ml ligroin, the mixture was left to stand for 3 days to precipitate. The precipitated solid was filtered out, washed three times more with 30 ml portions of ligroin and dried at 60° C. in a vacuum. 82.0 g of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl]-4-(tert.butoxycarbonyl)piperazine were obtained as a solid, melting point 155-156° C.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | water | 25 ml | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MTBE | 300 ml | CC(C)(C)OC | C5H12O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl]-4-(tert.butoxycarbonyl)piperazine | 82.0 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C27H27F6N3O3
